US07332508B2
1-Isopropyl-4-[5-(4-tert-butylcyclohexyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and 4-tert-butylcyclohexanecarbonyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | 4-tert-butylcyclohexanecarbonyl chloride | C(C)(C)(C)C1CCC(CC1)C(=O)Cl | C11H19ClO
product | 1-Isopropyl-4-[5-(4-tert-butylcyclohexyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=NOC(=N1)C1CCC(CC1)C(C)(C)C | InChI=1S/C20H35N3O.ClH/c1-14(2)23-12-10-15(11-13-23)18-21-19(24-22-18)16-6-8-17(9-7-16)20(3,4)5;/h14-17H,6-13H2,1-5H3;1H
